US05792760
5-bromo-3-[piperidine-4-yl]-1H-indole
To a solution of 13.61 gm (49 mmol) 5-bromo 3-[1,2,3,6-tetrahydro-4-pyridinyl]-1H-indole in 75 ml 2:1 tetrahydro-furan ethyl acetate were added 8.0 gm 3% sulfided platinum on carbon and 4.0 gm platinum oxide. The reaction mixture was hydrogenated with an initial hydrogen pressure of 60 p.s.i. at 40° C. for 18 hours and then at ambient temperature for 30 hours. The reaction mixture was filtered and the filtrate concentrated under reduced pressure to give 10.33 gm (75.6%) of the title compound as a light yellow solid.

reactant | 5-bromo 3-[1,2,3,6-tetrahydro-4-pyridinyl]-1H-indole | 49 mmol, 13.61 gm | BrC=1C=C2C(=CNC2=CC1)C=1CCNCC1 | C13H13BrN2
reactant | hydrogen | [H][H] | H2
catalyst | sulfided platinum on carbon | 8.0 gm | [Pt] | Pt
catalyst | platinum oxide | 4.0 gm | [Pt]=O
solvent | tetrahydro-furan ethyl acetate | C(C)OC(C)=O.O1CCCC1
product | 5-bromo-3-[piperidine-4-yl]-1H-indole | 10.33 gm, 75.6% | BrC=1C=C2C(=CNC2=CC1)C1CCNCC1 | C13H15BrN2
